US04780471
1-[1-[2-(2,4-Dichlorobenzyloxy)-5-fluorophenyl]vinyl]-1H-imidazole
85% Potassium hydroxide powder (36.0 g, 0.545 mole) was suspended in dimethyl sulfoxide (500 g) and stirred at 55° C. for 50 minutes. After cooling to 25° C., 1-[1-(2-hydroxy-5-fluorophenyl)vinyl]-1H-imidazole (90.0 g, 0.441 mole) was added and the mixture was stirred at room temperature for 1 hour. Then, 2,4-dichlorobenzyl chloride (94.5 g, 0.483 mole) was added dropwise over 1 hour and the mixture was stirred for 2 hours. Water (680 ml) was added dropwise over 25 minutes to the reaction mixture with stirring and then stirring was continued for additional 1 hour. The precipitated crystals were filtered off and washed with water (135 ml×5) and n-hexane (135 ml×3). The resulting crude crystals were recrystallized from n-hexane/ethyl acetate to obtain the title compound (109 g, 68.1%), m.p. 118°-120° C.

reactant | Potassium hydroxide | 0.545 mole, 36.0 g | [OH-].[K+]
reactant | 1-[1-(2-hydroxy-5-fluorophenyl)vinyl]-1H-imidazole | 0.441 mole, 90.0 g | OC1=C(C=C(C=C1)F)C(=C)N1C=NC=C1 | C11H9FN2O
reactant | 2,4-dichlorobenzyl chloride | 0.483 mole, 94.5 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | Water | 680 ml | O | H2O
solvent | dimethyl sulfoxide | 500 g | CS(=O)C | C2H6OS
product | 1-[1-[2-(2,4-Dichlorobenzyloxy)-5-fluorophenyl]vinyl]-1H-imidazole | 109 g, 68.1% | ClC1=C(COC2=C(C=C(C=C2)F)C(=C)N2C=NC=C2)C=CC(=C1)Cl | C18H13Cl2FN2O
